US07601844B2
A solution of 1-benzyl-4-(4-chlorophenyl)-3,3-dimethylpiperidine (4.8 g, 15.29 mmol) and 1-chloroethyl chloroformate (1.667 mL, 15.45 mmol) in dichloroethane (40 mL) was stirred overnight at room temperature, then refluxed for 3 hours. The solution was concentrated in-vacuo. The residue was taken up in methanol (50 mL), the mixture was refluxed overnight The mixture was diluted with 75 mL of 1 N HCl, and the methanol was removed under vacuum. The aqueous solution was washed 3× with diethyl ether (20 mL), and the mixture was treated with the careful addition of saturated sodium bicarbonate to reach pH 8. The aqueous solution was washed 3× with diethyl ether (25 mL), and the mixture was treated with the careful addition of solid sodium hydroxide to reach pH>13. The aqueous phase was extracted 3× with ethyl acetate (50 mL), and the combined organic phases were dried over sodium sulfate and concentrated in vacuo to yield (±)-4-(4-chlorophenyl)-3,3-dimethylpiperidine (2.44 g, 10.91 mmol, 71.3% yield) as a pale yellow oil which solidified upon standing. MS: (ESI+)=224.3, (M+H)+. The enantiomers were separated via chiral super-critical fluid chromatography to yield 1.09 g of isomer A, and 1.05 g of isomer B.

reactant | 1-benzyl-4-(4-chlorophenyl)-3,3-dimethylpiperidine | 15.29 mmol, 4.8 g | C(C1=CC=CC=C1)N1CC(C(CC1)C1=CC=C(C=C1)Cl)(C)C | C20H24ClN
reactant | 1-chloroethyl chloroformate | 15.45 mmol, 1.667 mL | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | dichloroethane | 40 mL | ClC(C)Cl | C2H4Cl2
product | (±)-4-(4-chlorophenyl)-3,3-dimethylpiperidine | 10.91 mmol, 2.44 g, 71.3% yield | ClC1=CC=C(C=C1)C1C(CNCC1)(C)C | C13H18ClN
